US09238631B2
To 0.93 g (2 mmol) (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate and 1.34 g (4 mmol) cis-2-phenyl-1,3-dioxan-5-yl 4-methylbenzenesulfonate in 18 mL was added potassium carbonate (0.55 g, 4 mmol). The mixture was heated in a microwave for 2 h at 100° C. Water was added and the mixture was extracted with ethyl acetate. The organic phase was dried over sodium sulfate, filtered and concentrated. The crude product was purified by flash chromatography to afford 0.165 g (13%) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{4-[(trans-2-phenyl-1,3-dioxan-5-yl)oxy]benzyl}-L-glutamate. The benzylidene protected derivative (0.13 g, 0.2 mmoL)) was dissolved in methanol (15 mL) Palladium/C (10% Pd) was added and the mixture was stirred under hydrogen atmosphere over night. The mixture was filtered and the solvent was evaporated, yielding 0.11 g (100%) di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{4-[(1,3-dihydroxypropan-2-yl)oxy]benzyl}-L-glutamate.

reactant | (4S)—N-(tert-butoxycarbonyl)-4-(4-hydroxybenzyl)-L-glutamate | 2 mmol, 0.93 g | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)[O-])CC1=CC=C(C=C1)O)C(=O)[O-]
reactant | cis-2-phenyl-1,3-dioxan-5-yl 4-methylbenzenesulfonate | 4 mmol, 1.34 g | CC1=CC=C(C=C1)S(=O)(=O)O[C@@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C17H18O5S
reactant | potassium carbonate | 4 mmol, 0.55 g | C([O-])([O-])=O.[K+].[K+]
solvent | Water | O | H2O
product | di-tert-butyl (4S)—N-(tert-butoxycarbonyl)-4-{4-[(trans-2-phenyl-1,3-dioxan-5-yl)oxy]benzyl}-L-glutamate | 0.165 g, 13% | C(C)(C)(C)OC(=O)N[C@@H](C[C@@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)O[C@H]1CO[C@@H](OC1)C1=CC=CC=C1)C(=O)OC(C)(C)C | C35H49NO9
